US03974202
6 g of cobalt octacarbonyl was added to 100 ml of methanol. Then CO was passed through with stirring (500 rpm) at 35°C for 30 minutes with an excess pressure of 600 mm Hg. Then the mixture was heated to 55°C and, with a steady feed-through of CO, 190 g (1.5 mole) of benzyl chloride and 329 g of 25.8 wt-% sodium methylate were fed in over a period of 3 hours at a stirring speed of 500 to 750 rpm. Carbon monoxide delivery continued for about 21/2 more hours until no further absorption took place. Then water was mixed with the reaction mixture and it was extracted with ether. After distilling the ether a reaction mixture ws obtained from which 215 g of phenylacetic acid methyl ester in a purity of 97.03% was obtained by distillation (yield 95.4%).

reactant | benzyl chloride | 1.5 mole, 190 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium methylate | C[O-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
catalyst | cobalt octacarbonyl | 6 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | phenylacetic acid methyl ester | 215 g, yield 95.4% | COC(CC1=CC=CC=C1)=O | C9H10O2
